US05604209
An 1N lithium diisopropylamide solution (357 ml) in tetrahydrofuran was cooled to -10°--15° C. in a stream of nitrogen and a solution of 1-ethoxymethyl-5-isopropyluracil (22.2 g) in tetrahydrofuran (100 ml) was added dropwise thereto at an appropriate rate to keep the temperature of reaction mixture at -10°--15° C. Stirring was continued for another 1 hr at -10°--15° C. after the completion of addition. To the mixture was added dropwise benzaldehyde at an appropriate rate to keep the temperature of reaction mixture at -10--15° C. The mixture was stirred for 1 hr at the same range of temperature. The reaction was quenched by the addition of acetic acid (40.8 ml) and the reaction solution was warmed up to room temperature. The resultant mixture was washed and partitioned with semi-saturated saline (100 ml). The organic layer was combined with hexane (220 ml) and extracted with 1N sodium hydroxide solution (150 ml) (×2). The aqueous layer was neutralized with hydrochloric acid and extracted with toluene (200 ml). The extract was concentrated under reduced pressure to remove toluene and the residue dissolved in pyridine (100 ml). To the solution was added acetic anhydride (270 g) and the mixture allowed to stand for 16 hr at room temperature. After addition of cooled water (100 ml), the mixture allowed to stand for another 16 hr at room temperature. After the aqueous pyridine solution was concentrated under reduced pressure, some crystals precipitated, which were collected by filtration yield 6-(α-acetoxybenzyl)-1-ethoxymethyl-5-isopropyluracil (13.3 g). M.p., 158° C.

reactant | lithium diisopropylamide | 1N, 357 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-ethoxymethyl-5-isopropyluracil | 22.2 g | C(C)OCN1C(=O)NC(=O)C(=C1)C(C)C | C10H16N2O3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-(α-acetoxybenzyl)-1-ethoxymethyl-5-isopropyluracil | 13.3 g | C(C)(=O)OC(C1=CC=CC=C1)C1=C(C(NC(N1COCC)=O)=O)C(C)C | C19H24N2O5
